US06015818
To a mixture of 4-hydroxymethyl-2-methoxybenzoic acid (1.5 g), triethylamine (5 g), dichloromethane (3 ml) and dimethyl sulfoxide (3 ml) was added portionwise sulfur trioxide pyridine complex (3.93 g) in water bath, and the mixture was stirred for 1.5 hours at the same temperature. The reaction mixture was poured into water and extracted with dichloromethane. The organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo to give 4-formyl-2-methoxybenzoic acid.

reactant | 4-hydroxymethyl-2-methoxybenzoic acid | 1.5 g | OCC1=CC(=C(C(=O)O)C=C1)OC | C9H10O4
reactant | triethylamine | 5 g | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 3 ml | ClCCl | CH2Cl2
reactant | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-formyl-2-methoxybenzoic acid | C(=O)C1=CC(=C(C(=O)O)C=C1)OC | C9H8O4
